US06608095B2
1-[3-Fluoro-4-(methylsulfonyl)phenyl]-2-[4-(4-thiazolyl)phenyl]-4-trifluoromethyl-1H-imidazole (step 4)
To a stirred solution of 2-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-trifluoromethyl-1H-imidazole (0.361 g, 0.78 mmol) in 1,4-dioxane (12 mL) was added 4-(tributylstannyl)thiazole (0.35 g, 0.94 mmol ), lithium chloride (0.083 g, 1.95 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.090 g, 0.078 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 3 hours. After cooling, volatiles were removed by evaporation. The residue was redissolved in ethyl acetate (30 mL) and the whole washed with water and brine. After dried over MgSO4 and concentration in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (3/1). The resulting solid was recrystallized from ethyl acetate-hexane to give the title compound (0.319 g, 87.6% yield).

reactant | 2-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-trifluoromethyl-1H-imidazole | 0.78 mmol, 0.361 g | BrC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H11BrF4N2O2S
reactant | 4-(tributylstannyl)thiazole | 0.94 mmol, 0.35 g | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | lithium chloride | 1.95 mmol, 0.083 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.078 mmol, 0.090 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-Fluoro-4-(methylsulfonyl)phenyl]-2-[4-(4-thiazolyl)phenyl]-4-trifluoromethyl-1H-imidazole | 0.319 g, 87.6% yield | FC=1C=C(C=CC1S(=O)(=O)C)N1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)C=1N=CSC1 | C20H13F4N3O2S2
